US07563822B2
To a solution of 0.463 g of 5-isopropyl-2-[2-(2,2,2-trifluoroacetylamino)ethyl]benzenesulfonyl chloride in 30 mL of tetrahydrofuran was added 0.500 mL of tert-butylamine. The mixture was sealed and stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in 30 mL of water and 10 mL of 1 mol/L hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with water, saturated aqueous sodium bicarbonate solution, and brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give 0.481 g of N-[2-(2-tert-butylsulfamoyl-5-isopropylphenyl)ethyl]-2,2,2-trifluoroacetamide.

reactant | 5-isopropyl-2-[2-(2,2,2-trifluoroacetylamino)ethyl]benzenesulfonyl chloride | 0.463 g | C(C)(C)C=1C=CC(=C(C1)S(=O)(=O)Cl)CCNC(C(F)(F)F)=O | C13H15ClF3NO3S
reactant | tert-butylamine | 0.500 mL | C(C)(C)(C)N | C4H11N
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-[2-(2-tert-butylsulfamoyl-5-isopropylphenyl)ethyl]-2,2,2-trifluoroacetamide | 0.481 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C=C1)C(C)C)CCNC(C(F)(F)F)=O | C17H25F3N2O3S
